US08609653B2
To a solution of (1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol (5.0 g, 8.45 mmol) in DCM (85 mL) at 0° C. was added PCC (3.64 g, 16.90 mmol) and the mixture was stirred at RT for 4 h. The mixture was adsorbed on silica gel and purified by column chromatography to provide 1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (3.0 g, 6.19 mmol, 73.2% yield) as an off-white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.91 (s, 3 H), 5.45 (s, 2 H), 6.56 (d, J=3.71 Hz, 1 H), 6.91-7.19 (m, 3 H), 7.22 (d, J=3.51 Hz, 1 H), m10.40 (s, 1H); LCMS (m/z) ES+=413 (M+1).

reactant | (1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol | 8.45 mmol, 5.0 g | FC=1C=C(CN2C=CC=3C2=NC(=C(C3I)CO)C)C=CC1F | C16H13F2IN2O
reactant | PCC | 16.90 mmol, 3.64 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | DCM | 85 mL | C(Cl)Cl | CH2Cl2
product | 1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 6.19 mmol, 3.0 g, 73.2% yield | FC=1C=C(CN2C=CC=3C2=NC(=C(C3I)C=O)C)C=CC1F | C16H11F2IN2O
